US07285558B2
7-isobutyl-5-methyl-3-(3-methylthien-2-yl)-2-(1-naphthylmethyl)-2H-pyrazolo[3,4-d]pyrimidine-4,6(5H,7H)-dione
3-methyl-2-thiophenecarbaldehyde (0.063 g) and triethylamine (0.1 ml) was added to a solution of 1-naphthaldehyde (3-isobutyl-1-methyl-2,6-dioxo-1,2,3,6-tetrahydropyrimidin-4-yl)hydrazone (0.0875 g) in dimethylformamide (1.5 ml). The solution was heated at 90° C. for 24 hours. Reaction cooled to room temperature and purified on preparative HPLC to give the title compound (0.072 g). Mass: 458.87 (M+H).

reactant | 3-methyl-2-thiophenecarbaldehyde | 0.063 g | CC1=C(SC=C1)C=O | C6H6OS
reactant | triethylamine | 0.1 ml | C(C)N(CC)CC | C6H15N
reactant | 1-naphthaldehyde (3-isobutyl-1-methyl-2,6-dioxo-1,2,3,6-tetrahydropyrimidin-4-yl)hydrazone | 0.0875 g | C(C(C)C)N1C(N(C(C=C1NN=CC1=CC=CC2=CC=CC=C12)=O)C)=O | C20H22N4O2
solvent | dimethylformamide | 1.5 ml | CN(C=O)C | C3H7NO
product | 7-isobutyl-5-methyl-3-(3-methylthien-2-yl)-2-(1-naphthylmethyl)-2H-pyrazolo[3,4-d]pyrimidine-4,6(5H,7H)-dione | 0.072 g | C(C(C)C)N1C(N(C(C=2C1=NN(C2C=2SC=CC2C)CC2=CC=CC1=CC=CC=C21)=O)C)=O | C26H26N4O2S
